US04298743
Preparation of p-Fluorothiobenzamide
Eighty-five ml of dry pyridine was saturated with hydrogen sulfide. To this was added 25 g of p-fluorobenzonitrile and 33 ml of triethylamine. Hydrogen sulfide was passed through the solution at room temperature, with good stirring. After 4 hours a sample on thin layer chromatography showed no nitrile. The solution was poured into water (600 ml) and ice. The solid product was filtered, washed with water and dried. Yield of 27.3 g, mp 143°--145° C.

reactant | pyridine | Eighty-five ml | N1=CC=CC=C1 | C5H5N
reactant | hydrogen sulfide | S | H2S
reactant | p-fluorobenzonitrile | 25 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | triethylamine | 33 ml | C(C)N(CC)CC | C6H15N
solvent | water | 600 ml | O | H2O
product | p-Fluorothiobenzamide | FC1=CC=C(C(=S)N)C=C1 | C7H6FNS
